US04789675
In a manner similar to that of Reference Example 16, 2-amino-4-methoxyphenol was allowed to react with 2,5-dibromovaleryl chloride, then cyclized to give 2-(3-bromopropyl)-6-methoxy-2H-1,4-benzoxazine-3(4H)-one as crystals. The yield was 56.9%. m.p. 102°-103° C. (recrystallization from ether).

reactant | 2-amino-4-methoxyphenol | NC1=C(C=CC(=C1)OC)O | C7H9NO2
reactant | 2,5-dibromovaleryl chloride | BrC(C(=O)Cl)CCCBr | C5H7Br2ClO
product | 2-(3-bromopropyl)-6-methoxy-2H-1,4-benzoxazine-3(4H)-one | yield was 56.9% | BrCCCC1OC2=C(NC1=O)C=C(C=C2)OC | C12H14BrNO3
